US08431575B2
To a stirred solution of 1-(4-cyclohexyloxy-phenyl)-hexan-2-one (86.4 mmol, 23.7 g) and triethylamine (86.4 mmol, 12.1 mL) in THF (10 mL) was added a solution of ethyl glyoxylate (50% in toluene, 432 mmol, 86 mL) and continued stirring for 12 h during which time the starting material was fully consumed as judged by TLC. After removal of volatiles in vacuo, the crude product was purified on a 300 g SiO2 cartridge with 10-15% ethyl acetate in hexanes to afford 3-(4-cyclohexyloxy-phenyl)-2-hydroxy-4-oxo-octanoic acid ethyl ester

reactant | 1-(4-cyclohexyloxy-phenyl)-hexan-2-one | 86.4 mmol, 23.7 g | C1(CCCCC1)OC1=CC=C(C=C1)CC(CCCC)=O | C18H26O2
reactant | triethylamine | 86.4 mmol, 12.1 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl glyoxylate | 432 mmol, 86 mL | C(C=O)(=O)OCC | C4H6O3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-(4-cyclohexyloxy-phenyl)-2-hydroxy-4-oxo-octanoic acid ethyl ester | C(C)OC(C(C(C(CCCC)=O)C1=CC=C(C=C1)OC1CCCCC1)O)=O | C22H32O5
